US07166613B2
3-Acetyl-7,8-dihydrofuro[2,3-g]indole
To stirred N,N-dimethylacetamide (2.1 mL) under Ar at 0° C. was added phosphorous oxychloride (1.0 mL, 10.7 mmol) dropwise over 10 min. The resultant pale yellow mixture was allowed to warm to ambient temperature, then a solution of 7,8-dihydrofuro[2,3-g]indole (800 mg, 5.0 mmol) in N,N-dimethylacetamide (1.5 mL) was added over 3 min and the mixture was stirred for 2 h. The resultant suspension was heated at 65° C. for 30 min, then cooled in an ice-water bath. Ice (10 g) was added portionwise to the stirred mixture followed by the cautious addition of 20% aqueous sodium hydroxide (10 mL), then water (15 mL). The resultant mixture was heated to reflux for 10 min then cooled to room temperature and diluted with ice-water (50 mL). The suspension was filtered-off and dried to give the crude product (870 mg, 86%) as a beige solid. Recrystallisation from hot ether (10 mL) afforded the product (746 mg, 74%) as a cream-coloured solid: m.p. 233–234.5° C.; NMR (400 MHz, DMSO-d6) δH 2.41 (3H, s), 3.32 (1H, 2H, t, J 8.5 Hz), 4.58 (2H, t, J 8.5 Hz), 6.69 (1H, d, J 8.5 Hz), 7.91 (1H, d, J 8.5 Hz), 8.18 (1H, d, J 3.0 Hz) and 11.76 (1H, br s).

reactant | phosphorous oxychloride | 10.7 mmol, 1.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7,8-dihydrofuro[2,3-g]indole | 5.0 mmol, 800 mg | N1C=CC2=CC=C3C(=C12)CCO3 | C10H9NO
reactant | sodium hydroxide | 10 mL | [OH-].[Na+]
reactant | water | 15 mL | O | H2O
reactant | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
reactant | N,N-dimethylacetamide | 2.1 mL | CN(C(C)=O)C | C4H9NO
product | 3-Acetyl-7,8-dihydrofuro[2,3-g]indole | 746 mg, 74% | C(C)(=O)C1=CNC2=C3C(=CC=C12)OCC3 | C12H11NO2
